US07585885B2
2-Dipropylcarbamoyl-isonicotinic acid
Heat a mixture of 4-chloropyridine-2-carboxylic acid dipropylamide (1.02 g, 4.2 mmol), palladium (II) acetate (11.3 mg, 0.05 mmol), triethylamine (1.0 mL, 7.1 mmol), 1,1′-bis(3,5-dimethylphenylphosphino)ferrocene (138 mg, 0.55 mmol), DMF (35 mL) and water (5 mL) at 110° C. under an atmosphere of carbon monoxide (200 psi) overnight. Filter the reaction, concentrate and purify (silica gel chromatography, eluting with 0:100 to 10:90 methanol:chloroform) to give the title compound (75 mg, 7%).

reactant | 4-chloropyridine-2-carboxylic acid dipropylamide | 4.2 mmol, 1.02 g | C(CC)N(C(=O)C1=NC=CC(=C1)Cl)CCC | C12H17ClN2O
reactant | triethylamine | 7.1 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 35 mL | CN(C)C=O | C3H7NO
reactant | water | 5 mL | O | H2O
catalyst | palladium (II) acetate | 0.05 mmol, 11.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(3,5-dimethylphenylphosphino)ferrocene | 0.55 mmol, 138 mg | CC=1C=C(C=C(C1)C)P[C-]1C=CC=C1.[C-]1(C=CC=C1)PC1=CC(=CC(=C1)C)C.[Fe+2]
product | 2-Dipropylcarbamoyl-isonicotinic acid | 75 mg, 7% | C(CC)N(C(=O)C=1C=C(C(=O)O)C=CN1)CCC | C13H18N2O3
